US05489592
(Method I) α-Ethenyl-2-fluoro-3-(trifluoromethyl)benzenemethanol
A solution of 360 g (2.194 mol) of 1-fluoro-2-trifluoromethylbenzene in 3.4 l of anhydrous THF is cooled to -70° C. under a nitrogen atmosphere. 1.508 l (2.412 mol) of a 1.6M solution of n-butyllithium in hexane are added dropwise over 70 minutes while maintaining the temperature below -67° C. and then the mixture is stirred for 30 minutes at -70° C. 154 ml (2.305 mol) of acrolein are then added dropwise over 30 min while maintaining the temperature below -60° C. The mixture is then stirred for 30 min at -70° C. The mixture is allowed to return to room temperature and is poured onto a mixture of 3.8 kg of ice and 300 ml of concentrated H2SO4.

reactant | 1-fluoro-2-trifluoromethylbenzene | 2.194 mol, 360 g | FC1=C(C=CC=C1)C(F)(F)F | C7H4F4
reactant | n-butyllithium | C(CCC)[Li]
reactant | acrolein | 2.305 mol, 154 ml | C(=O)C=C | C3H4O
reactant | H2SO4 | 300 ml | OS(=O)(=O)O | H2O4S
solvent | THF | 3.4 l | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | α-Ethenyl-2-fluoro-3-(trifluoromethyl)benzenemethanol | C(=C)C(O)C1=C(C(=CC=C1)C(F)(F)F)F | C10H8F4O
